US08633175B2
Step 3: 2-amino-2,3-dihydro-1H-indene-5-carbonitrile hydrochloride
To a solution of 1,1-dimethylethyl (5-cyano-2,3-dihydro-1H-inden-2-yl)carbamate (1.85 g, 7.18 mmol) in dioxane (30 mL) at room temperature was added HCl in dioxane (18 mL of a 4.0 M solution; 72 mmol). The mixture was stirred for ca. 18 hr and diluted with ether. Solids were collected by filtration and rinsed thoroughly with ether, affording the title compound as a tan solid. 1H NMR (400 MHz, methanol-d4) δ ppm 7.65 (s, 1H), 7.59 (d, 1H, J=7.9 Hz), 7.46 (d, 1H, J=7.9 Hz), 4.14 (m, 1H), 3.51-3.43 (m, 2H), 3.10-3.04 (m, 1H).

reactant | 1,1-dimethylethyl (5-cyano-2,3-dihydro-1H-inden-2-yl)carbamate | 7.18 mmol, 1.85 g | C(#N)C=1C=C2CC(CC2=CC1)NC(OC(C)(C)C)=O | C15H18N2O2
reactant | HCl | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-amino-2,3-dihydro-1H-indene-5-carbonitrile hydrochloride | Cl.NC1CC2=CC=C(C=C2C1)C#N | InChI=1S/C10H10N2.ClH/c11-6-7-1-2-8-4-10(12)5-9(8)3-7;/h1-3,10H,4-5,12H2;1H
